US06248912B1
Chloro-2-indenyldimethylsilane (5.15 g, 0.025 mol.) according to Example 1 was dissolved in 10 ml of tetrahydrofuran. The solution was cooled to 0° C. and a solution of trimethylsilylcyclopentadienyllithium (3.60 g, 0.025 mol.) in 20 ml of tetrahydrofuran was added. Stirring was carried out for 15 hours at 25° C. 50 ml of water were then added, and the organic phase was washed with water again and dried over Na2SO4. After removal of the solvents under an oil pump vacuum, the yellowish oil that remained was purified by means of column chromatography. The solvents were removed to yield 2.12 g (34%) of trimethylsilylcyclopentadienyl-2-indenyl-dimethylsilane in the form of a colorless oil.

reactant | Chloro-2-indenyldimethylsilane | 0.025 mol, 5.15 g | Cl[Si](C)(C)C=1CC2=CC=CC=C2C1 | C11H13ClSi
reactant | trimethylsilylcyclopentadienyllithium | 0.025 mol, 3.60 g | C[Si](C)(C)C1(C=CC=C1)[Li]
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | trimethylsilylcyclopentadienyl-2-indenyl-dimethylsilane | 2.12 g, 34% | C[Si](C)(C)C[Si](C)(C=1CC2=CC=CC=C2C1)C1C=CC=C1 | C19H26Si2
